US08182718B2
Hk=1,1′-Diethyl-1H,1′H-2,2′-bibenzimidazole
To a flask were added 2.0 g 1-ethyl-1H-benzimidazole and 25 ml tetrahydrofuran under nitrogen. To this solution was added 20 ml n-butyllitium (1.6M) and the mixture was heated to 6° C. for 72 hours. After cooling to 22 C, the reaction was quenched with water and extracted with ethyl acetate. Following solvent removal, the product was dissolved in 8.5 ml hot ethyl acetate and 20 ml of hexane were added. After cooling to 5 C, the product precipitated and was filtered, washed with hexane, and dried giving 0.42 g pale yellow solid.

reactant | 1-ethyl-1H-benzimidazole | 2.0 g | C(C)N1C=NC2=C1C=CC=C2 | C9H10N2
reactant | n-butyllitium | 1.6M, 20 ml | C(CCC)[Li]
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1,1′-Diethyl-1H,1′H-2,2′-bibenzimidazole | 0.42 g | C(C)N1C(=NC2=C1C=CC=C2)C2=NC1=C(N2CC)C=CC=C1 | C18H18N4
